US07625908B2
2-Hydroxy-N-methyl-N-{2-[(4-{3-methyl-4-(pyridin-2-ylmethoxy)anilino}quinazolin-5-yl)oxy]ethyl}acetamide
2-Hydroxy-N-[2-({4-[4-hydroxy-3-methylanilino]quinazolin-5-yl}oxy)ethyl]-N-methylacetamide (100 mg), picolyl chloride hydrochloride (60 mg) and potassium carbonate (120 mg) were stirred in DMF (5 ml) to which was added 18-crown-6 (10 mg). The reaction was stirred at room temperature for 2 days. The DMF was removed in vacuo, water (5 ml) was added and then the suspension was extracted with DCM (2×5 ml). The DCM fraction was purified by chromatography using 2.5-5% of 10:1 DCM/methanol containing 0.5% ammonia (0.880) as eluent. The appropriate fractions were evaporated, and the residue was precipitated from DCM/diethyl ether to give the title product as a light yellow solid (28 mg, 23%); NMR spectrum (DMSO-d6, 100° C.) 2.29 (s, 3H), 3.00 (s, 3H), 3.90 (t, 2H), 4.16 (s, 2H), 4.50 (t, 2H), 5.20 (s, 2H), 7.01 (d, 1H), 7.16 (d, 1H), 7.34 (d, 2H), 7.51 (m, 2H), 7.55 (d, 1H), 7.79 (t, 1H), 7.83 (td, 1H), 8.41 (s, 1H), 8.57 (d, 1H), 9.62 (s, 1H); Mass spectrum MH+ 474.

reactant | 2-Hydroxy-N-[2-({4-[4-hydroxy-3-methylanilino]quinazolin-5-yl}oxy)ethyl]-N-methylacetamide | 100 mg | OCC(=O)N(C)CCOC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)O)C | C20H22N4O4
reactant | picolyl chloride hydrochloride | 60 mg | Cl.N1=C(C=CC=C1)CCl
reactant | potassium carbonate | 120 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 10 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-Hydroxy-N-methyl-N-{2-[(4-{3-methyl-4-(pyridin-2-ylmethoxy)anilino}quinazolin-5-yl)oxy]ethyl}acetamide | 28 mg, 23% | OCC(=O)N(CCOC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C)C | C26H27N5O4
